US09403797B2
2-Chloro-5-iodo-N-methylpyridin-4-amine (Intermediate I-8) (30 mg, 0.112 mmol), tetrakis(triphenylphosphine) palladium (0) (6.5 mg, 5.59 μmol) and 0.5 M aqueous sodium carbonate solution (290 μL, 0.145 mmol) were added to 2-cyclopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (61 μL, 0.335 mmol) in MeCN. The mixture was heated at 130° C. in a microwave reactor for 1 hour. The mixture was concentrated in vacuo. Preparative thin layer chromatography, eluting with 1% NH3, 6% MeOH in CH2O12, gave 2-chloro-5-cyclopropyl-N-methylpyridin-4-amine (10 mg, 0.055 mmol, 49% yield) as a white powder.

reactant | 2-Chloro-5-iodo-N-methylpyridin-4-amine | 0.112 mmol, 30 mg | ClC1=NC=C(C(=C1)NC)I | C6H6ClIN2
reactant | sodium carbonate | 0.145 mmol, 0.5 M, 290 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-cyclopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.335 mmol, 61 μL | C1(CC1)B1OC(C(O1)(C)C)(C)C | C9H17BO2
solvent | MeCN | CC#N | C2H3N
catalyst | tetrakis(triphenylphosphine) palladium (0) | 5.59 μmol, 6.5 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-chloro-5-cyclopropyl-N-methylpyridin-4-amine | 0.055 mmol, 10 mg, 49% yield | ClC1=NC=C(C(=C1)NC)C1CC1 | C9H11ClN2
